US06313097B1
c) 5,7-dihydro-5-[1-(phenylmethyl)-4-piperidinyl]-dibenzo[d,f][1,3]diazepin-6-one
To a solution of 36.0 g (0.101 mol) of 2-amino-2′-[[1-(phenylmethyl)-4-piperidinyl]amino]-biphenyl in 200 mL of dimethylformamide were added 40.5 g (0.250 mol) of N,N′-carbonyldiimidazole, then the mixture was stirred for 2 hours at 100° C., after which the solvent was eliminated in vacuo. The residue was stirred with water, then extracted exhaustively with dichloromethane. The combined organic extracts were dried over sodium sulfate, clarified with active charcoal and evaporated down. The residue (60 g) was purified by chromatography on aluminium oxide of activity stage 3 using PE/EE 2/1 (v/v). The desired compound was obtained from the corresponding fractions in a yield of 6.2 g (16% of theory).

reactant | 2-amino-2′-[[1-(phenylmethyl)-4-piperidinyl]amino]-biphenyl | 0.101 mol, 36.0 g | NC1=C(C=CC=C1)C1=C(C=CC=C1)NC1CCN(CC1)CC1=CC=CC=C1 | C24H27N3
reactant | water | O | H2O
reactant | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 5,7-dihydro-5-[1-(phenylmethyl)-4-piperidinyl]-dibenzo[d,f][1,3]diazepin-6-one | C1(=CC=CC=C1)CN1CCC(CC1)N1C(NC2=C(C3=C1C=CC=C3)C=CC=C2)=O | C25H25N3O
